US08217032B2
8-Fluoro-5-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-5H-6-oxa-chrysen-2-ol
Dissolve 6-(2,4-difluoro-phenyl)-5-{hydroxy-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methyl}-naphthalen-2-ol (3.4 g, 7.0 mmol) in dry DMF (70 mL). Slowly add sodium hydride (440 mg, 18 mmol) and plunge into a 140° C. oil bath for 30 minutes. Cool to room temperature and pour into water. Adjust the pH to 7 and extract three times with methylene chloride. Wash combined organic layers with water, dry with sodium sulfate, filter and concentrate. Triturate with ether to yield 2.2 g (69%) of the title compound: mass spectrum (ion spray) m/z=470.3 (M+H).

reactant | 6-(2,4-difluoro-phenyl)-5-{hydroxy-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methyl}-naphthalen-2-ol | 7.0 mmol, 3.4 g | FC1=C(C=CC(=C1)F)C=1C(=C2C=CC(=CC2=CC1)O)C(C1=CC=C(C=C1)OCCN1CCCCC1)O | C30H29F2NO3
reactant | sodium hydride | 18 mmol, 440 mg | [H-].[Na+]
reactant | water | O | H2O
solvent | DMF | 70 mL | CN(C)C=O | C3H7NO
product | 8-Fluoro-5-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-5H-6-oxa-chrysen-2-ol | 2.2 g, 69% | FC=1C=C2OC(C3=C4C=CC(=CC4=CC=C3C2=CC1)O)C1=CC=C(C=C1)OCCN1CCCCC1 | C30H28FNO3
